US08791132B2
To a stirred solution of 3,6-dimethyl-6,7,8,9-tetrahydro-5H-pyrrolo[2,3-b:4,5-c′]dipyridine (201 mg, 1.0 mmol) in NMP (3 mL) was added powdered KOH (392 mg, 7.0 mmol). After stirring for 10 min at RT, 2-(trifluoromethyl)-5-vinylpyridine (346 mg, 2.0 mmol) was added to the reaction mixture and stirring continued for another 3 h. The progress of reaction was monitored by TLC and NMR. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (3×20 mL). The organic layer was washed with water (5×20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by reverse phase HPLC to yield 3,6-dimethyl-9-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-6,7,8,9-tetrahydro-5H-pyrrolo[2,3-b:4,5-c′]dipyridine (80 mg). 1H NMR (CDCl3, TFA salt) δ (ppm): 8.38 (s, 1H), 8.0 (s, 1H), 7.5 (d, 2H), 7.4 (d, 1H), 4.4 (t, 2H), 3.58 (s, 2H), 3.2 (t, 2H), 2.68 (t, 2H), 2.5 (t, 2H), 2.47 (s, 3H), 2.38 (s, 3H).

reactant | 3,6-dimethyl-6,7,8,9-tetrahydro-5H-pyrrolo[2,3-b:4,5-c′]dipyridine | 1.0 mmol, 201 mg | CC=1C=C2C(=NC1)NC1=C2CN(CC1)C | C12H15N3
reactant | KOH | 7.0 mmol, 392 mg | [OH-].[K+]
reactant | 2-(trifluoromethyl)-5-vinylpyridine | 2.0 mmol, 346 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | water | 20 mL | O | H2O
product | 3,6-dimethyl-9-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-6,7,8,9-tetrahydro-5H-pyrrolo[2,3-b:4,5-c′]dipyridine | 80 mg | CC=1C=C2C(=NC1)N(C1=C2CN(CC1)C)CCC=1C=NC(=CC1)C(F)(F)F | C20H21F3N4
